US06423699B1
6(3-Chloro-4-fluoro-phenyl)-4-isopropyl-3,4-dihydro-1H-quinoxalin-2-one
A mixture of (3,4-dihydro-4-isopropyl-2-oxoquinoxalin-6-yl)boronic acid (2.4 g, 10 mmol), 4-bromo-2-chlorofluorobenzene (2 g, 10 mmol), potassium carbonate (4 g, 30 mmol), and tetrakis(triphenylphosphine)palladium(0) (0.46 g, 0.4 mmol) in dimethoxyethane (100 ml), ethanol (25 ml) and water (25 mol) was heated to reflux for 6 hrs. After cooling to room temperature the mixture was diluted with water and extracted with ethyl acetate (3×). The combined organic layers were washed with water, then brine, dried (MgSO4) and evaporated to obtain crude product (2.9 g, 91%). Recrystallization from EtOAc/hexane afforded the title compound, mp 208-213° C.: 1H-NMR (DMSO-d6) δ 1.16 (d, J=6.59 Hz, 6H), 3.56 (s, 2H), 4.22 (septet, J=6.59 Hz, 1H), 6.86 (d, J=7.91 Hz, 1H), 6.96 (dd, J=7.91, 1.76 Hz, 1H), 7.01 (d, J=1.76 Hz, 1H), 7.43 (t, J=9.01 Hz, 1H), 7.61 (m, 1H), 7.82 (dd, J=7.14, 2.31 Hz, 1H), 10.47 (s, 1H). MS (EI) m/z 318 [M]+ + 1 chlorine.

reactant | (3,4-dihydro-4-isopropyl-2-oxoquinoxalin-6-yl)boronic acid | 10 mmol, 2.4 g | C(C)(C)N1CC(NC2=CC=C(C=C12)B(O)O)=O | C11H15BN2O3
reactant | 4-bromo-2-chlorofluorobenzene | 10 mmol, 2 g | BrC1=CC(=C(C=C1)F)Cl | C6H3BrClF
reactant | potassium carbonate | 30 mmol, 4 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethoxyethane | 100 ml | C(OC)COC | C4H10O2
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.4 mmol, 0.46 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 25 mol | O | H2O
product | 6(3-Chloro-4-fluoro-phenyl)-4-isopropyl-3,4-dihydro-1H-quinoxalin-2-one | ClC=1C=C(C=CC1F)C=1C=C2N(CC(NC2=CC1)=O)C(C)C | C17H16ClFN2O
